US04704459
In 2 ml of ethanol was suspended 64 mg of 3-aminopyrrolidine dihydrochloride, and 130 mg of triethylamine was added to the resulting suspension to form a solution. Subsequently, 200 mg of ethyl 1-(2,4-difluorophenyl)-7-diphenoxyphosphinyloxy-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate was added to the solution, and the resulting mixture was subjected to reaction at room temperature of 1 hour. Subsequently, 3 ml of water was added to the reaction mixture, and the crystals thus deposited were collected and washed with 3 ml of water to obtain 110 mg (yield 75.9%) of ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate. The physical properties of this compound were identical with those of the compound obtained in Example 64.

reactant | 3-aminopyrrolidine dihydrochloride | 64 mg | Cl.Cl.NC1CNCC1
reactant | triethylamine | 130 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl 1-(2,4-difluorophenyl)-7-diphenoxyphosphinyloxy-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 200 mg | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(N=C12)OP(=O)(OC1=CC=CC=C1)OC1=CC=CC=C1)F)=O)C(=O)OCC | C29H20F3N2O7P
reactant | water | 3 ml | O | H2O
solvent | ethanol | 2 ml | C(C)O | C2H6O
product | ethyl 7-(3-amino-1-pyrrolidinyl)-1-(2,4-difluorophenyl)-6-fluoro-1,4-dihydro-4-oxo-1,8-naphthyridine-3-carboxylate | 110 mg, yield 75.9% | NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=N1)C1=C(C=C(C=C1)F)F)C(=O)OCC)=O)F | C21H19F3N4O3
